US08193164B2
Step ED1: 2,6-Dichloro-9-[(1R,4S)-4-(4-ethyl-[1,2,3]triazol-1-yl)-cyclopent-2-enyl]-9H-purine
A mixture comprising triphenylphosphine (0.299 g, 0.874 mmol) and Pd2(dba)3 (0.267 g, 0.291 mmol) in dry THF (5 mL) under an inert atmosphere of argon is stirred at RT for 10 minutes. This mixture is then added to a pre-stirring mixture of carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester (Intermediate AA2) (2.00 g, 5.83 mmol) and 4-ethyl-2H-[1,2,3]triazole (0.594 g, 6.12 mmol) in THF (15 mL). The resulting mixture is stirred at RT overnight and then concentrated in vacuo. The crude product is purified by chromatography on silica eluting with 0-50% EtOAc in iso-hexane to afford the title compound as a white solid. (MH+ 350).

reactant | triphenylphosphine | 0.874 mmol, 0.299 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | 5.83 mmol, 2.00 g | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)=O | C13H12Cl2N4O3
reactant | 4-ethyl-2H-[1,2,3]triazole | 6.12 mmol, 0.594 g | C(C)C1=NNN=C1 | C4H7N3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.291 mmol, 0.267 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2,6-Dichloro-9-[(1R,4S)-4-(4-ethyl-[1,2,3]triazol-1-yl)-cyclopent-2-enyl]-9H-purine | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)N1N=NC(=C1)CC)Cl | C14H13Cl2N7
